US04575565
Preparation of 2-(4-Methoxyphenyl)-1,3-Dithiolane
Following the general procedure as in Example 1, 25 gm (0.184 moles) of 4-methoxybenzaldehyde and 17.3 gm (0.184 moles) of 1,2-ethanedithiol gave, after crystallization from hexane, 39.3 gm (0.183 moles) of a white colored solid (96% yield) m.p. 62°-63° C. Elemental analysis for C10H12OS2 :

reactant | 4-methoxybenzaldehyde | 0.184 moles, 25 gm | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 1,2-ethanedithiol | 0.184 moles, 17.3 gm | C(CS)S | C2H6S2
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Methoxyphenyl)-1,3-Dithiolane | 0.183 moles, 39.3 gm, 96% yield | COC1=CC=C(C=C1)C1SCCS1 | C10H12OS2
